US04514419
To a stirred solution of sodium hydroxide (6.1 g, 0.15 mole) in 40 ml of water and 250 ml of ethanol was added N,N'-dimethylhydrazine dihydrochloride (10 g, 0.076 mole). The reaction mixture was warmed to 50° C., and 4-chlorophenylisothiocyanate (12.8 g, 0.076 mole) was added in small portions. Upon complete addition, the reaction mixture was heated under reflux for two hours and then allowed to cool. The cooled reaction mixture was filtered and the filtrate concentrated under reduced pressure to remove most of the solvent. The concentrate was taken up in 200 ml of toluene. The toluene was removed under reduced pressure. This procedure was repeated with two additional 200 ml portions of toluene to remove the remaining ethanol and water traces by azeotropic distillation. The brown residual oil was recrystallized twice from ethanol to give N-(4-chlorophenyl)-1,2-dimethylhydrazinecarbothioamide (6.8 g, mp 103°-104° C.). The nmr spectrum of the product was consistent with the assigned structure.

reactant | sodium hydroxide | 0.15 mole, 6.1 g | [OH-].[Na+]
reactant | N,N'-dimethylhydrazine dihydrochloride | 0.076 mole, 10 g | Cl.Cl.CNNC
reactant | 4-chlorophenylisothiocyanate | 0.076 mole, 12.8 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | water | 40 ml | O | H2O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N-(4-chlorophenyl)-1,2-dimethylhydrazinecarbothioamide | 6.8 g | ClC1=CC=C(C=C1)NC(=S)N(NC)C | C9H12ClN3S
